US04465844
Benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine methyl ester
In 300 ml of methanol was dissolved 2 g of benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine and under ice-cooling an excess of an ethereal solution of diazomethane was added. The mixture was stirred under ice-cooling for 2 hours and then concentrated under reduced pressure. The concentrate was chromatographed on a silica gel column and eluted with toluene-acetone (4:1). The eluate was concentrated under reduced pressure and after addition of ethyl ether to the residue, the mixture was allowed to stand in a refrigerator overnight to give crystals. Yield 1.3 g.

reactant | benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine | 2 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1C(NC(C1)=O)=O | C14H14N2O6
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | 300 ml | CO | CH4O
product | Benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine methyl ester | COC(C(NC(=O)OCC1=CC=CC=C1)C1C(NC(C1)=O)=O)=O | C15H16N2O6
